US05166214
Part C, Method 1. To a solution of 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid (2.0 g, 0.0057 mol) in N,N-dimethylformamide (25 mL) was added 1-hydroxybenzotriazole hydrate (0.93 g, 0.0069 mol) followed by a solution of heptylamine (1.10 mL, 0.86 g, 0.0074 mol) in N,N-dimethylformamide (10 mL). The reaction mixture was cooled to 0° and dicyclohexylcarbodiimide (1.42 g, 0.0069 mol) was added portionwise as a solid. The reaction mixture was stirred for 2 hours at 0° and then stirred for 48 hours at ambient temperature. The solids were filtered and washed with N,N-dimethylformamide. The filtrate was concentrated and the residue was chromatographed with 1:1 hexane-ethyl acetate. The resulting solid was recrystallized from acetonitrile and triturated with hexane to give 5-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptylpentanamide (2.21 g, 0.0049 mol) as a white solid, mp 104°-106°. 1H NMR (CDCl3) δ11.6(s,1H), 7.6-7.1(m,10H), 6.1-6.0(m,1H), 3.1-2.8(m,4H), 2.2(t,2H,J=7Hz), 1.9-1.7(m,2H), 1.7-1.5(m,2H), 1.4-1.1(m,10H), 0.9(t,3H,J=8Hz).

reactant | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid | 0.0057 mol, 2.0 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCC(=O)O | C20H20N2O2S
reactant | 1-hydroxybenzotriazole hydrate | 0.0069 mol, 0.93 g | O.ON1N=NC2=C1C=CC=C2
reactant | heptylamine | 0.0074 mol, 1.10 mL, 0.86 g | C(CCCCCC)N | C7H17N
reactant | dicyclohexylcarbodiimide | 0.0069 mol, 1.42 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptylpentanamide | 0.0049 mol, 2.21 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCC(=O)NCCCCCCC | C27H35N3OS
